US05750576
Z-1-[4-(2-benzyloxyethoxy)-phenyl]-1-(4-benzyloxyphenyl)-4-chloro-2-phenylbut-1-ene
4-[4-(2-benzyloxyethoxy)-phenyl]-4-(4-benzyloxyphenyl)-3-phenylbut-3-en-1-ol (1.9 g, 3.45 mmol), triphenyl phosphine (1.8 g, 6.9 mmol), carbon tetrachloride (2.6 g, 17.25 mmol) and acetonitrile (10 ml) were stirred at room temperature for an hour. The product was separated by the same method as Z-1-[4-(2-benzyloxyethoxy)-phenyl]-4-chloro-1,2-diphenyl-but-1-ene described in example 2 and purified by flash chromatography (toluene: methanol, 9.75:0.25). Yield 1.2 g.

reactant | 4-[4-(2-benzyloxyethoxy)-phenyl]-4-(4-benzyloxyphenyl)-3-phenylbut-3-en-1-ol | 3.45 mmol, 1.9 g | C(C1=CC=CC=C1)OCCOC1=CC=C(C=C1)C(=C(CCO)C1=CC=CC=C1)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C38H36O4
reactant | triphenyl phosphine | 6.9 mmol, 1.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 17.25 mmol, 2.6 g | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | Z-1-[4-(2-benzyloxyethoxy)-phenyl]-1-(4-benzyloxyphenyl)-4-chloro-2-phenylbut-1-ene | C(C1=CC=CC=C1)OCCOC1=CC=C(C=C1)\C(=C(\CCCl)/C1=CC=CC=C1)\C1=CC=C(C=C1)OCC1=CC=CC=C1 | C38H35ClO3
